US07550459B2
(S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one
A reaction flask was charged with 4H-Benzo[1,4]oxazin-3-one (2.47 g, 16.5 mmol), (R)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane (4.01 g, 15.0 mmol), and Cs2CO3 (12.2 g, 37.6 mmol) in DMF (20 mL) and stirred at 55° for 20 h. The reaction mixture was quenched with water and the product extracted into EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 10:1) to give the title compound (3.92 g, 78%). 1H NMR (CDCl3) δ 7.15-7.11 (m, 1H), 6.99-6.91 (m, 3H), 4.60-4.50 (m, 2H), 3.98 (dd, J=8.3 Hz, J=12.4 Hz, 1H), 3.81 (dd, J=5.5 Hz, J=12.4 Hz, 1H), 3.51 (dd, J=4.1 Hz, J=9.7 Hz, 1H), 3.40 (dd, J=6.9 Hz, J=9.7 Hz, 1H), 2.12-2.02 (m, 1H), 0.90-0.82 (m, 12H), 0.02 (s, 6H).

reactant | 4H-Benzo[1,4]oxazin-3-one | 16.5 mmol, 2.47 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | (R)-(3-bromo-2-methylpropoxy)-tert-butyldimethylsilane | 15.0 mmol, 4.01 g | BrC[C@@H](CO[Si](C)(C)C(C)(C)C)C | C10H23BrOSi
reactant | Cs2CO3 | 37.6 mmol, 12.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-4-[3-(tert-Butyldimethylsilanyloxy)-2-methylpropyl]-4H-benzo[1,4]oxazin-3-one | 3.92 g, 78% | [Si](C)(C)(C(C)(C)C)OC[C@H](CN1C(COC2=C1C=CC=C2)=O)C | C18H29NO3Si
